US07595401B2
Synthesis of 8-[(6-Bromo-1,3-benzodioxol-5-yl)thio]-9-(2-piperidin-3-ylethyl)-9H-purin-6-amine
To a suspension of tert-Butyl 3-(2-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}ethyl)piperidine-1-carboxylate (0.03 g) in ethyl acetate (10 mL) was added 6N HCl (5 mL) at room temperature and stirring was continued at rt for 1-16 h. The solvent and the excess hydrochloric acid was evaporated to dryness. The oily residue was co-evaporated with toluene (3×5 mL) to afford title product as hydrochloride salt. 1H NMR (CD3OD) δ 8.38 (s, 1H), 7.29 (s, 1H), 7.26 (s, 1H), 6.10 (s, 2H), 4.43-4.41 (m, 2H), 3.49-3.46 (m, 1H), 2.95-2.92 (m, 1H), 2.80-2.65 (m, 2H), 1.92-1.76 (m, 4H), 1.39-1.23 (m, 4H); TOF LC-MS [M+H]+] 477.1

reactant | tert-Butyl 3-(2-{6-amino-8-[(6-bromo-1,3-benzodioxol-5-yl)thio]-9H-purin-9-yl}ethyl)piperidine-1-carboxylate | 0.03 g | NC1=C2N=C(N(C2=NC=N1)CCC1CN(CCC1)C(=O)OC(C)(C)C)SC1=CC2=C(OCO2)C=C1Br | C24H29BrN6O4S
reactant | HCl | 6N, 5 mL | Cl | ClH
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 8-[(6-Bromo-1,3-benzodioxol-5-yl)thio]-9-(2-piperidin-3-ylethyl)-9H-purin-6-amine | BrC=1C(=CC2=C(OCO2)C1)SC=1N(C2=NC=NC(=C2N1)N)CCC1CNCCC1 | C19H21BrN6O2S
